US07612114B2
6-{2-{Cyclopropylmethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol and 1-(2-chloroethyl)piperidine hydrochloride according to an analogous synthetic method to Preparation Example 40, cyclopropylmethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amine (351 mg) was used according to an analogous synthetic method to Example 111 to provide the title compound (159 mg).

reactant | 4-{2-{cyclopropylmethyl[5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]amino}ethyl}phenol | C1(CC1)CN(CCC1=CC=C(C=C1)O)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C30H35NO3
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
reactant | cyclopropylmethyl [5-methoxy-2-(6-methoxy-1,2,3,4-tetrahydronaphthalen-2-yl)phenyl]{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amine | 351 mg | C1(CC1)CN(CCC1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=CC(=C1)OC)C1CC2=CC=C(C=C2CC1)OC | C37H48N2O3
product | 6-{2-{Cyclopropylmethyl{2-[4-(2-piperidin-1-ylethoxy)phenyl]ethyl}amino}-4-hydroxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 159 mg | C1(CC1)CN(C1=C(C=CC(=C1)O)C1CC=2C=CC(=CC2CC1)O)CCC1=CC=C(C=C1)OCCN1CCCCC1 | C35H44N2O3
